US04315928
A mixture of 2.5 g powdered potassium hydroxide, 0.1 g. of dicyclohexyl-18-crown-6, and 6.0 g (0.037 mole) of 1-methylthio-3,3-dimethyl-2-butanone oxime in 200 ml of benzene was stirred 2 hrs. at 28° C. Then 5.9 g (0.037 mole) of N-methyl-N-(dimethylaminosulfenyl)carbamoyl fluoride was added rapidly. The mixture was stirred 20 hrs. at room temperature, water washed three times, dried (MgSO4), and the benzene solvent was removed in vacuo. The product, 1-methylthio-3,3-dimethyl-2-butanone O-[N-methyl-N-(dimethylaminosulfenyl)carbamoyl]oxime, was obtained as a heavy syrup which would not crystallize, 8 g. (73.7 percent yield).

reactant | potassium hydroxide | [OH-].[K+]
reactant | dicyclohexyl-18-crown-6 | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
reactant | 1-methylthio-3,3-dimethyl-2-butanone oxime | 0.037 mole, 6.0 g | CSCC(C(C)(C)C)=NO | C7H15NOS
reactant | N-methyl-N-(dimethylaminosulfenyl)carbamoyl fluoride | 0.037 mole, 5.9 g | CN(C(=O)F)SN(C)C | C4H9FN2OS
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-methylthio-3,3-dimethyl-2-butanone O-[N-methyl-N-(dimethylaminosulfenyl)carbamoyl]oxime | 73.7 percent yield | CN(C(=O)ON=C(CSC)C(C)(C)C)SN(C)C | C11H23N3O2S2
